US05880235
α-methylene-β-methyl-γ-methyl-γ-butyrolactone
α-methylene-β-methyl-γ,γ-dimethyl-γ-butyrolactone and, among them, once again, α-methylene-β-methyl-γ-butyrolactone (R1 =R2 =R3 =H, R4 =CH3, R5 =H or R1 =R2 =R3 =H and R4 =H and R5 =CH3).

reactant | α-methylene-β-methyl-γ,γ-dimethyl-γ-butyrolactone | C=C1C(=O)OC(C1C)(C)C | C8H12O2
reactant | α-methylene-β-methyl-γ-butyrolactone | C=C1C(=O)OCC1C | C6H8O2
product | α-methylene-β-methyl-γ-methyl-γ-butyrolactone | C=C1C(=O)OC(C1C)C | C7H10O2
